US09399646B2
A mixture of 1,4-diiodobenzene (2.07 g, 6.27 mmol), ((S)-2-((R)-3-methylpyrrolidin-1-yl)propan-1-ol (0.6 g, 4.18 mmol), CuI (80 mg, 0.4 mmol), cesium carbonate (1.36 g, 4.18 mmol) in butyronitrile (4 mL) was degassed and then heated at 125° C. overnight. The mixture was cooled to room temperature, filtered through celite and washed with EtOAc. The filtrate was concentrated and purified on a silica gel column using 0-10% methanol in dichloromethane to afford (R)-1-((S)-1-(4-iodophenoxy)propan-2-yl)-3-methylpyrrolidine (1.1 g, 78%). 1H NMR (400 MHz, DMSO-d6) δ: 7.57 (d, 2H), 6.79 (d, 2H), 4.04-3.99 (m, 1H), 3.89-3.78 (m, 1H), 2.94-2.85 (m, 1H), 2.66-2.56 (m, 2H), 2.56 (m, 1H), 2.15-2.05 (m, 2H), 1.90-1.86 (m, 1H), 1.24-1.22 (m, 1H), 1.10 (d, 3H), 0.96 (d, 3H). LCMS: 346 (M+H)+.

reactant | 1,4-diiodobenzene | 6.27 mmol, 2.07 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | (S)-2-((R)-3-methylpyrrolidin-1-yl)propan-1-ol | 4.18 mmol, 0.6 g | C[C@H]1CN(CC1)[C@H](CO)C | C8H17NO
reactant | cesium carbonate | 4.18 mmol, 1.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | butyronitrile | 4 mL | C(CCC)#N | C4H7N
catalyst | CuI | 0.4 mmol, 80 mg | [Cu]I
product | (R)-1-((S)-1-(4-iodophenoxy)propan-2-yl)-3-methylpyrrolidine | 1.1 g, 78% | IC1=CC=C(OC[C@H](C)N2C[C@@H](CC2)C)C=C1 | C14H20INO
